US07943622B2
Step 3. Synthesis of N-Methyl-N-phenyl-2-((pyridin-3-yloxy)methyl)piperazine-1-carboxamide dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(N-methyl-N-phenylcarbamoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt (28.1 mg, 0.052 mmol) in MeOH (1 mL). After 12 h, the reaction mixture was concentrated under reduced pressure, yielding 16.9 mg (81%) of the desired product as a yellow solid. LC-MS: RT=3.83 min, [M+H]+=327.1.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(N-methyl-N-phenylcarbamoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt | 0.052 mmol, 28.1 mg | OC(=O)C(F)(F)F.CN(C(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1)C1=CC=CC=C1
solvent | MeOH | 1 mL | CO | CH4O
product | N-Methyl-N-phenyl-2-((pyridin-3-yloxy)methyl)piperazine-1-carboxamide dihydrochloride | 16.9 mg, 81% | Cl.Cl.CN(C(=O)N1C(CNCC1)COC=1C=NC=CC1)C1=CC=CC=C1 | InChI=1S/C18H22N4O2.2ClH/c1-21(15-6-3-2-4-7-15)18(23)22-11-10-20-12-16(22)14-24-17-8-5-9-19-13-17;;/h2-9,13,16,20H,10-12,14H2,1H3;2*1H
